US07402595B2
6-bromo-2-[4-(3-hydroxypropan-1-sulfonyl)benzyl]-4-phenyl-3-propionyl-2H-isoquinolin-1-one
To a solution of 6-bromo-4-phenyl-3-propionyl-2-[4-[3-(tetrahydropyran-2-yloxy)propan-1-sulfonyl]benzyl]-2H-isoquinolin-1-one (110 mg) in methanol (10 ml) was added p-toluenesulfonic acid monohydrate (49 mg), and the mixture was stirred at room temperature for 1 hr. The solvent was evaporated under reduced pressure and the residue was partitioned between ethyl acetate and 1N aqueous sodium hydroxide solution. The organic layer was washed with brine and dried by adding sodium sulfate. The solvent was evaporated under reduced pressure and the obtained residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=3/2-+1/9) to give the title compound (95 mg, 98%).

reactant | 6-bromo-4-phenyl-3-propionyl-2-[4-[3-(tetrahydropyran-2-yloxy)propan-1-sulfonyl]benzyl]-2H-isoquinolin-1-one | 110 mg | BrC=1C=C2C(=C(N(C(C2=CC1)=O)CC1=CC=C(C=C1)S(=O)(=O)CCCOC1OCCCC1)C(CC)=O)C1=CC=CC=C1 | C33H34BrNO6S
reactant | p-toluenesulfonic acid monohydrate | 49 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 10 ml | CO | CH4O
product | 6-bromo-2-[4-(3-hydroxypropan-1-sulfonyl)benzyl]-4-phenyl-3-propionyl-2H-isoquinolin-1-one | 95 mg, 98% | BrC=1C=C2C(=C(N(C(C2=CC1)=O)CC1=CC=C(C=C1)S(=O)(=O)CCCO)C(CC)=O)C1=CC=CC=C1 | C28H26BrNO5S
